US07157455B2
A solution of [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone (290 mg, 0.72 mmol, Example 59 and 3-chloropropanesulfonyl chloride (165 mg, 0.93 mmol, Aldrich) was treated with diisopropylethyl amine (102 mg, 102 mmol, Aldrich) in methylene chloride (200 mL). This was stirred for 1 hour at 5° C. The reaction was washed with 5% aqueous sodium bicarbonate, dried (MgSO4), and the solvent concentrated in vacuum. This solid was dissolved in tetrahydrofuran, filtered through celite, reduced in volume and triturated with ether to give 300 mg (82%) of [4-amino-2-[1-(3-chloro-propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone as a white solid. HRMS, observed: 486.1375; Calcd for (M+H)+: 486.1373

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1 | C17H20FN5O2
reactant | 3-chloropropanesulfonyl chloride | 0.93 mmol, 165 mg | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | diisopropylethyl amine | 102 mmol, 102 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | [4-amino-2-[1-(3-chloro-propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | 300 mg, 82% | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCN(CC1)S(=O)(=O)CCCCl | C20H25ClFN5O4S
